US05346906
a. 3-Hydroxy-3-(4-pyridinyl)-1-azabicyclo[2.2.2]octane
By the procedure described in Description 1, n-butyl lithium (1.6M in hexanes, 19.5 ml, 31.2 mmol), 4-bromopyridine (5.37 g, 34.0 mmol) and 3-quinuclidinone (3.90 g, 31.2 mmol) gave 3.62 g of the title compound as a tan powder. The dihydrochloride salt was prepared; m.p. 225°-235° C.; Found: C, 50.50; H, 6.39; N, 9.76. C12G20N2, Cl2O.0.5H2O requires C, 50.36; H, 6.69; N, 9.79; δ(360 MHz, D2O) 8.854 (2H, d, J=6.8 Hz, py-H), 8.207 (2H, d, J=6.8 Hz, py-H), 4.016 (1H, d, J=14.2 Hz, H-2ax), 3.696 (1H, d, J=14.2 Hz, H-2eq), 3.52-3.30 (4H, m, H2 -6 and H2 -7), 2.70-1.60 (5H, m, H-4, H2 -5 and H2 -8); m/e 204 (M+).

reactant | n-butyl lithium | 31.2 mmol, 1.6M, 19.5 ml | C(CCC)[Li]
reactant | 4-bromopyridine | 34.0 mmol, 5.37 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 3-quinuclidinone | 31.2 mmol, 3.90 g | N12CC(C(CC1)CC2)=O | C7H11NO
product | 3-Hydroxy-3-(4-pyridinyl)-1-azabicyclo[2.2.2]octane | 3.62 g | OC1(CN2CCC1CC2)C2=CC=NC=C2 | C12H16N2O
